US07629358B2
Preparation 110: 3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methyl propyl]-N-[2-(4-chlorophenyl)ethyl]-N-ethylbenzamide
The title compound was prepared from 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxy methyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid (preparation 37) and [2-(4-chloro-phenyl)-ethyl]-ethyl-amine hydrochloride (preparation 81), using a similar method to that of preparation 109, as a white solid in 43% yield. 1H NMR (400 MHz, CD3OD) 7.90-6.90 (10H, m), 6.72 (1H, d), 4.69 (1H, m), 4.63 (2H, m), 3.70 (1H, m), 3.61 (1H, m), 3.49 (1H, m), 3.10 (1H, m), 3.03-2.58 (6H, m), 1.29-1.26, 1.07-1.01 (9H, 2×m), 0.82 (9H, s), 0.01 (3H, s), -0.18 (3H, s) ppm; LRMS APCI m/z 639 [M+H]+

reactant | 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxy methyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)O)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C26H39NO5Si
reactant | [2-(4-chloro-phenyl)-ethyl]-ethyl-amine hydrochloride | Cl.ClC1=CC=C(C=C1)CCNCC
product | 3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methyl propyl]-N-[2-(4-chlorophenyl)ethyl]-N-ethylbenzamide | 43% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)N(CC)CCC2=CC=C(C=C2)Cl)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C36H51ClN2O4Si
